US07589095B2
Bis(triphenylphosphine)palladium dichloride (34 mg, 0.05 mmol) was added under a nitrogen atmosphere to a mixture of 4-propyl-6-trimethylstannanyl-pyrimidine-2-carbonitrile (150 mg, 0.48 mmol) and 4-methoxy-3-trifluoromethyl-bromobenzene (148 mg, 0.58 mmol) in dimethylformamide (3 mL). The mixture was heated for 5 hours at 80° C. then concentrated under reduced pressure. The residue was partitioned between ethyl acetate and water. The aqueous layer was extracted twice with ethyl acetate. The combined organic layers were concentrated under reduced pressure. The residue was chromatographed over silica gel (eluent Cyclohexane/DCM 7/3) to afford a solid which was triturated in pentane. After filtration, 4-(4-methoxy-3-trifluoromethyl-phenyl)-6-propyl-pyrimidine-2-carbonitrile (18 mg, 11%) was obtained as an off white solid.

reactant | 4-propyl-6-trimethylstannanyl-pyrimidine-2-carbonitrile | 0.48 mmol, 150 mg | C(CC)C1=NC(=NC(=C1)[Sn](C)(C)C)C#N
reactant | 4-methoxy-3-trifluoromethyl-bromobenzene | 0.58 mmol, 148 mg | COC1=C(C=C(C=C1)Br)C(F)(F)F | C8H6BrF3O
solvent | dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
catalyst | Bis(triphenylphosphine)palladium dichloride | 0.05 mmol, 34 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-(4-methoxy-3-trifluoromethyl-phenyl)-6-propyl-pyrimidine-2-carbonitrile | 18 mg, 11% | COC1=C(C=C(C=C1)C1=NC(=NC(=C1)CCC)C#N)C(F)(F)F | C16H14F3N3O
